US05866560
d) 11β-Nitrooxy-7α-(9-[4,4,5,5,5-pentafluoropentanesulfonyl]-nonyl)-estra-1,3,5(10)-triene-3,17β-diol
For saponification, 1.0 g of 3,17β-diacetyloxy-11β-nitrooxy-7α-(9-[4,4,5,5,5-pentafluoropentane-sulfonyl]-nonyl)-estra-1,3,5(10)-triene is dissolved in 50 ml of methanol, mixed with 20 ml of 3% methanolic potassium hydroxide solution and allowed to stand for 4 hours at room temperature.

reactant | 3,17β-diacetyloxy-11β-nitrooxy-7α-(9-[4,4,5,5,5-pentafluoropentane-sulfonyl]-nonyl)-estra-1,3,5(10)-triene | 1.0 g | C(C)(=O)OC1=CC=2C[C@H]([C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@@H]([C@@H]3C2C=C1)O[N+](=O)[O-])OC(C)=O)CCCCCCCCCS(=O)(=O)CCCC(C(F)(F)F)(F)F | C36H50F5NO9S
reactant | potassium hydroxide | 20 ml | [OH-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 11β-Nitrooxy-7α-(9-[4,4,5,5,5-pentafluoropentanesulfonyl]-nonyl)-estra-1,3,5(10)-triene-3,17β-diol | [N+](=O)([O-])O[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCCCCCS(=O)(=O)CCCC(C(F)(F)F)(F)F)O | C32H46F5NO7S
